US05763461
To a solution of 0.95 g (2.41 mmol) of 5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-2 (1H)-pyridone, 20 drops of TDA-1, and 0.5 ml of methyl iodide in 50 ml of dry DMF was added 0.96 g (3 eq) of milled K2CO3. The mixture was filtered and concentrated in vacuo to afford 0.9 g (91.8%) of 3-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-1-methyl-2-pyridone, as a white solid, which was recrystallized from isopropyl acetate to yield a white solid, 143°-146° C.

reactant | 5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-2 (1H)-pyridone | 2.41 mmol, 0.95 g | FC(C1=NC(=NO1)C1=CC(=C(OCCCC=2C=CC(NC2)=O)C(=C1)C)C)(F)F | C19H18F3N3O3
reactant | methyl iodide | 0.5 ml | CI | CH3I
reactant | K2CO3 | 0.96 g, 3 eq | C(=O)([O-])[O-].[K+].[K+]
catalyst | TDA-1 | 20 drops | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-1-methyl-2-pyridone | 0.9 g, 91.8% | FC(C1=NC(=NO1)C1=CC(=C(OCCCC=2C(N(C=CC2)C)=O)C(=C1)C)C)(F)F | C20H20F3N3O3
